US04863942
starting from N-[3-(5-[4-acetyl-3-hydroxy-2-n-propylphenoxy]-pentyloxy)-phenyl]-oxamic acid methyl ester there is obtained N-{3-[5-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-pentyloxy]-phenyl}-oxamic acid having a melting point of 117°-118° (toluene) and the triethanolammonium salt thereof,

reactant | N-[3-(5-[4-acetyl-3-hydroxy-2-n-propylphenoxy]-pentyloxy)-phenyl]-oxamic acid methyl ester | COC(C(=O)NC1=CC(=CC=C1)OCCCCCOC1=C(C(=C(C=C1)C(C)=O)O)CCC)=O | C25H31NO7
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-{3-[5-(4-acetyl-3-hydroxy-2-n-propylphenoxy)-pentyloxy]-phenyl}-oxamic acid | C(C)(=O)C1=C(C(=C(OCCCCCOC=2C=C(C=CC2)NC(C(=O)O)=O)C=C1)CCC)O | C24H29NO7
